US04352748
100 g Tin (IV) chloride is added at 10° C. to a solution of 79 g p-methyl benzoyl chloride and 40 g trimethyl ethene in 100 ml cyclohexane. The reaction mixture is then stirred at 10° C. during 30 min., subsequently poured out into ice and extracted with ether. The solution in ether is washed neutral, dried and evaporated. The residue is added to a solution of 72 g AlCl3 in 200 ml nitropropane, in the course of which the temperature is kept at 25°-30° C. Then the reaction mixture is stirred during five hours at 20° C. After that it is poured out into ice and extracted with ether. The solution in ether is washed neutral, dried and evaporated. The residue is distilled under diminished pressure yielding 45.4 g of the desire indanone. B.p. 95° C./1 mm Hg.

reactant | Tin (IV) chloride | 100 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | p-methyl benzoyl chloride | 79 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | trimethyl ethene | 40 g | CC=C(C)C | C5H10
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
